US04792561
A mixture of 1.0 g of 6-bromo-3,4-dihydrocarbostyril, 300 mg of imidazole, 40 mg of cuprous iodide and 600 mg of potassium carbonate in 4 ml of N,N-dimethylformamide was heated at 90° C. for 48 hours. The reaction mixture was poured into water and extracted with a mixture of 10% methanol in methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent removed under reduced pressure and the residue chromatographed on silica gel, eluting with 3% methanol in methylene chloride, giving 6-(imidazol-1-yl)-3,4-dihydrocarbostyril, m.p. 205°-208° C.

reactant | 6-bromo-3,4-dihydrocarbostyril | 1.0 g | BrC=1C=C2CCC(NC2=CC1)=O | C9H8BrNO
reactant | imidazole | 300 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 6-(imidazol-1-yl)-3,4-dihydrocarbostyril | N1(C=NC=C1)C=1C=C2CCC(NC2=CC1)=O | C12H11N3O
